US04474700
A homogeneous solution of 9.3 g (0.05 mole) of methyl 3-cyanotetrafluoropropionate prepared as in Example 3, and 5.1 g (0.05 mole) of triethylamine in 25 ml of ether was stirred at 25°. After 4 days, a second layer had slowly formed; no increase was observed during an additional 2 days. Removal of volatiles under full pump at 25° gave a deliquescent yellow solid, methyltriethylammonium-3-cyanotetrafluoropropionate, mp 52°-55°. IR (CDCl3): 2965 (sat'd CH), 2255 (CN), 1690 (CO2), and 1250-1100 cm-1 (CF). NMR (CDCl3): 1H 3.47 (q, JHH 7.1 Hz, 6H, CH2 --N, 3.08 (s, 3H, CH3 --N), and 1.37 ppm (t, JHH 7.1 Hz, of m, 9H, CH3); 19F -108.5 (t, JFF 8.4 Hz, 2 F, CF2CN) and -119.3 ppm (t, JFF 8.4 Hz, 2F, CF2C=O with only 3% of impurities present.

reactant | methyl 3-cyanotetrafluoropropionate | 0.05 mole, 9.3 g | C(#N)C(C(C(=O)OC)(F)F)(F)F | C5H3F4NO2
reactant | triethylamine | 0.05 mole, 5.1 g | C(C)N(CC)CC | C6H15N
solvent | ether | 25 ml | CCOCC | C4H10O
product | methyltriethylammonium 3-cyanotetrafluoropropionate | C[N+](CC)(CC)CC.C(#N)C(C(C(=O)[O-])(F)F)(F)F | InChI=1S/C7H18N.C4HF4NO2/c1-5-8(4,6-2)7-3;5-3(6,1-9)4(7,8)2(10)11/h5-7H2,1-4H3;(H,10,11)/q+1;/p-1
